US07479502B2
Methyl 3-bromo-5-formyl-4-hydroxybenzoate (11.5 g, 44.39 mmol) was dissolved in acetone (100 mL) and then benzylbromide (8.35 g, 48.83 mmol) and potassium bicarbonate (6.74 g, 48.83 mmol) were added. The mixture was stirred overnight and the organic layer was washed with water. The organic layer was separated, dried over MgSO4 and concentrated. Product was purified from the residue by flash silica gel chromatography to give methyl 4-benzyloxy-3-bromo-5-formyl-benzoate (10.0 g).

reactant | Methyl 3-bromo-5-formyl-4-hydroxybenzoate | 44.39 mmol, 11.5 g | BrC=1C=C(C(=O)OC)C=C(C1O)C=O | C9H7BrO4
reactant | benzylbromide | 48.83 mmol, 8.35 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium bicarbonate | 48.83 mmol, 6.74 g | C([O-])(O)=O.[K+]
solvent | acetone | 100 mL | CC(=O)C | C3H6O
product | methyl 4-benzyloxy-3-bromo-5-formyl-benzoate | 10.0 g | C(C1=CC=CC=C1)OC1=C(C=C(C(=O)OC)C=C1C=O)Br | C16H13BrO4
